US08278282B2
To a 250 ml round-bottomed flask, protected from light with aluminum foil, are added 4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine (1.3 g, 4.6 mmol), copper(I) iodide (0.17 g, 0.93 mmol), trimethylsilylacetylene (0.96 ml, 6.97 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.26 g, 0.23 mmol) dissolved in anhydrous THF (60 ml), anhydrous DMF (20 ml) and triethyl amine (0.64 ml, 4.65 mmol). The reaction mixture is stirred at room temperature under nitrogen for 16 hrs. The solvent is removed in vacuo, and the residue is dissolved in methylene chloride (250 ml). The reaction mixture is washed with water (3×50 ml), and the combined organic layer is dried over Na2SO4, and concentrated in vacuo. The crude residue is purified by flash-chromatography on silica gel and eluted with 70% EtOAc in cyclohexane. Fractions containing the desired product (TLC) are pooled and evaporated to afford 4-chloro-5-trimethylsilylethynyl-7H-pyrrolo[2,3-d]pyrimidine as a tan white solid.

reactant | aluminum | [Al] | Al
reactant | 4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine | 4.6 mmol, 1.3 g | ClC=1C2=C(N=CN1)NC=C2I | C6H3ClIN3
reactant | trimethylsilylacetylene | 6.97 mmol, 0.96 ml | C[Si](C)(C)C#C | C5H10Si
reactant | triethyl amine | 4.65 mmol, 0.64 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 60 ml | C1CCOC1 | C4H8O
catalyst | copper(I) iodide | 0.93 mmol, 0.17 g | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.23 mmol, 0.26 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-chloro-5-trimethylsilylethynyl-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)NC=C2C#C[Si](C)(C)C | C11H12ClN3Si
